US04855314
4-[[(methylsulphonyl)amino]methyl]benzeneacetic acid
A solution of ethyl 4-[[(methylsulphonyl)amino]methyl]benzeneacetate (3.1 g) and 1M KOH (22 ml) in ethanol (50 ml) was stirred at room temperature for 3 h and evaporated in vacuo to leave an off-white solid. This solid was dissolved in water (50 ml) and washed with EA (2×50 ml). The organic extract was discarded and the aqueous layer was acidified (pH1) with 5M hydrochloric acid (about 10 ml) to precipitate the title compound (2.54 g) as a white solid m.p. 167°-169°.

reactant | ethyl 4-[[(methylsulphonyl)amino]methyl]benzeneacetate | 3.1 g | CS(=O)(=O)NCC1=CC=C(C=C1)CC(=O)OCC | C12H17NO4S
reactant | KOH | 1M, 22 ml | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-[[(methylsulphonyl)amino]methyl]benzeneacetic acid | CS(=O)(=O)NCC1=CC=C(C=C1)CC(=O)O | C10H13NO4S
